US08252820B2
F. N-{2-[3-Benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-5-methylphenyl}-methanesulfonamide
To a solution of 5-[4-(2-amino-4-methylbenzyl)-2-benzyloxy-6-fluorophenyl]-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one (240 mg, 0.42 mmol) in pyridine (5 mL) is added methanesulfonyl chloride (0.064 mL, 0.84 mmol) and the solution is stirred at RT for 2 h. The mixture is then diluted in EtOAc, and it is washed with 1N HCl, brine and water. The organic layer is dried with MgSO4, and concentrated. The residue is purified to give the title compound.

reactant | 5-[4-(2-amino-4-methylbenzyl)-2-benzyloxy-6-fluorophenyl]-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.42 mmol, 240 mg | NC1=C(CC2=CC(=C(C(=C2)F)N2CC(N(S2(=O)=O)COCC2=CC=CC=C2)=O)OCC2=CC=CC=C2)C=CC(=C1)C | C31H30FN3O5S
reactant | methanesulfonyl chloride | 0.84 mmol, 0.064 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{2-[3-Benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-5-methylphenyl}-methanesulfonamide | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=C(C=C2)C)NS(=O)(=O)C)C=C(C1N1S(N(C(C1)=O)COCC1=CC=CC=C1)(=O)=O)F | C32H32FN3O7S2
